US05036075
The experiment is carried out as in Example 44, starting with 2-{3-[4-(2-oxo-1-benzimidazolinyl)piperidino]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (4.6 g) in dimethylformamide (20 cc) and benzoyl chloride (1.4 g) in tetrahydrofuran (20 cc) and sodium hydride (0.48 g) as a 50% dispersion in vaseline oil. The mixture is stirred for 15 hours at a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a dichloromethanemethanol (90-10 vol) mixture as eluant, and then recrystallization from a boiling acetone/ethanol (90-10 vol) mixture (60 cc), 2-{3-[4-(3-benzoyl-2-oxo-1-benzimidazolinyl)piperidino]propyl}naphto [1,8-cd]isothiazole 1,1-dioxide (2.9 g) is obtained, m.p. 133° C.

reactant | 2-{3-[4-(2-oxo-1-benzimidazolinyl)piperidino]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 4.6 g | O=C1NC2=C(N1C1CCN(CC1)CCCN1S(C=3C4=C1C=CC=C4C=CC3)(=O)=O)C=CC=C2 | C25H26N4O3S
reactant | benzoyl chloride | 1.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydride | 0.48 g | [H-].[Na+]
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | 2-{3-[4-(3-benzoyl-2-oxo-1-benzimidazolinyl)piperidino]propyl}naphto [1,8-cd]isothiazole 1,1-dioxide | 2.9 g | C(C1=CC=CC=C1)(=O)N1C(N(C2=C1C=CC=C2)C2CCN(CC2)CCCN2S(C=1C3=C2C=CC=C3C=CC1)(=O)=O)=O | C32H30N4O4S
